US04977273
To methyl 3-(2'-nitroimidazolyl)-2,2-difluoropropionate (5.00 g, 21.3 mmol), 10% ammonia solution (80 ml) in methanol was added and stirred for 3 hours at a room temperature. Then, the reaction mixture was concentrated. Methanol (100 ml) was added to the concentrate and throughly stirred. Insoluble fraction was filtered off. The filtrate was concentrated, subjected to silica gel column chromatography and recrystallized from ethanol to obtain 3-(2'-nitroimidazolyl)-2,2-difluoropropionic acid amide (2.57 mg). m.p. 149.5°-151.5° C.

reactant | methyl 3-(2'-nitroimidazolyl)-2,2-difluoropropionate | 21.3 mmol, 5.00 g | [N+](=O)([O-])C=1NC=C(N1)CC(C(=O)OC)(F)F | C7H7F2N3O4
reactant | ammonia | 80 ml | N | H3N
solvent | methanol | CO | CH4O
product | 3-(2'-nitroimidazolyl)-2,2-difluoropropionic acid amide | 2.57 mg | [N+](=O)([O-])C=1NC=C(N1)CC(C(=O)N)(F)F | C6H6F2N4O3
